US09228120B2
Additionally, for example when mixing 1,3-didecyltetramethyldisilazane as the silicon compound B and trifluoromethanesulfonic anhydride as the acid B, the trifluoromethanesulfonic anhydride is rapidly reacted to form decyldimethylsilyl trifluoromethanesulfonate as the acid A.

reactant | 1,3-didecyltetramethyldisilazane | C(CCCCCCCCC)[Si](N[Si](CCCCCCCCCC)(C)C)(C)C | C24H55NSi2
reactant | trifluoromethanesulfonic anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | decyldimethylsilyl trifluoromethanesulfonate | FC(S(=O)(=O)O[Si](C)(C)CCCCCCCCCC)(F)F | C13H27F3O3SSi
